US08193239B2
(i) 3-(Methylsulfonyloxy)phenylboronic acid
To 3-hydroxyphenylboronic acid (10 g) stirred in pyridine (40 mL) at 0° C. was added methanesulfonyl chloride (8 mL). The reaction mixture was stirred for 1 h at room temperature and then water and ethyl acetate was added. The organic layer was separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with dilute HCl washed with brine, dried over magnesium sulfate. The resulting solid was recrystallizated from petroleum ether and ethyl acetate to give the sub-titled compound (12 g).

reactant | 3-hydroxyphenylboronic acid | 10 g | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | methanesulfonyl chloride | 8 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 3-(Methylsulfonyloxy)phenylboronic acid | 12 g | CS(=O)(=O)OC=1C=C(C=CC1)B(O)O | C7H9BO5S
